US04365072
A mixture of 28.4 g. (0.1 mole) of 4'-methyl-2,5-diacetoxy-1,1'-biphenyl prepared in section (a) of this Example, 18.7 g. (0.105 mole) of N-bromosuccinimide, and 0.25 g. (0.001 mole) of dibenzoyl peroxide in 250 ml. of carbon tetrachloride was heated at reflux for about 6 hours. The mixture was cooled and the precipitated succinimide was removed by filtration. The filtrate solvent was removed on a rotary evaporator yielding about 42 g. of a syrupy residue. The residue was mixed with 80 ml. of low boiling petroleum ether, the mixture heated to reflux with stirring, and the petroleum ether decanted. This extraction process was repeated twice more yielding 35.5 g. of a syrupy residue. This residue was then dissolved in 180 ml. of diethylether and the solution diluted with 120 ml. of n-hexanes. Cooling of the solution in dry-ice and scratching the sides of the container induced crystallization of the product. A first crop of 17.2 g. of 4'-bromomethyl-2,5-diacetoxy-1,1'-biphenyl was obtained. The mother liquor was concentrated and crystallization induced as above to yield an additional 6.5 g. of product. The procedure was repeated once again to yield a third crop of 8.3 g. Total yield was thus 32.0 g. Nuclear magnetic resonance analysis of the combined product in deuterochloroform was consistent with the structure of 4'-bromomethyl-2,5-diacetoxy-1,1'-biphenyl. The melting range of the product was 51°-53° C.

reactant | 4'-methyl-2,5-diacetoxy-1,1'-biphenyl | 0.1 mole | CC1=CC=C(C=C1)C1=C(C=CC(=C1)OC(C)=O)OC(C)=O | C17H16O4
reactant | N-bromosuccinimide | 0.105 mole | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 0.001 mole | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dry-ice | C(=O)=O | CO2
solvent | diethylether | C(C)OCC | C4H10O
product | 4'-bromomethyl-2,5-diacetoxy-1,1'-biphenyl | BrCC1=CC=C(C=C1)C1=C(C=CC(=C1)OC(C)=O)OC(C)=O | C17H15BrO4
